US07795315B2
(E)-{4-[2-(2-tert-Butoxycarbonylamino-phenylcarbamoyl)-vinyl]-phenyl}-hydroxy-acetic acid methyl ester
A mixture of 2-acryloylamino-phenyl)-carbamic acid tert-butyl ester (23 g, 87.7 mmol), methyl-2-(4-bromophenyl)-2-hydroxyacetate (25.6 g, 104.5 mmol), tri-o-tolyl-phosphine (2.8 g, 9.2 mmol), Et3N (35.8 g, 353.8 mmol) and Pd2(dba)3 (4.3 g, 4.7 mmol) in DMF (400 mL) was heated at 100 degrees Celcius for 6 hours under N2 atmosphere, monitored by TLC. After cooling to room temperature, the mixture was poured into a saturated aqueous solution of NH4Cl, and extracted with ethyl acetate. The organic layer was washed with brine, dried over Na2SO4, filtered, concentrated in vacuo, and purified by flash column chromatography (ethyl acetate/petroleum ether 1:2) to obtain pale yellow solid (22.4 g, 60%). MS: calc'd 427 (MH+), exp 427 (MH+). 1H NMR (d6-DMSO, 400 MHz) δ 9.71 (s, 1H), 8.48 (s, 1H), 7.64 (d, 2H, J=8.0 Hz), 7.59 (d, 1H, J=15.6 Hz), 7.57 (m, 1H), 7.48 (d, 2H, J=8.0 Hz), 7.14 (m, 2H), 6.92 (d, 1H, J=15.6, 6.17 (d, 1H, J=5.2 Hz), 5.21 (d, 1H, J=4.8 Hz), 3.64 (s, 3H), 1.47 (s, 9H).

reactant | carbamic acid tert-butyl ester | 87.7 mmol, 23 g | C(C)(C)(C)OC(N)=O | C5H11NO2
reactant | methyl-2-(4-bromophenyl)-2-hydroxyacetate | 104.5 mmol, 25.6 g | COC(C(O)C1=CC=C(C=C1)Br)=O | C9H9BrO3
reactant | tri-o-tolyl-phosphine | 9.2 mmol, 2.8 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | Et3N | 353.8 mmol, 35.8 g | CCN(CC)CC | C6H15N
reactant | NH4Cl | [NH4+].[Cl-]
reactant | DMF | 400 mL | CN(C)C=O | C3H7NO
catalyst | Pd2(dba)3 | 4.7 mmol, 4.3 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (E)-{4-[2-(2-tert-Butoxycarbonylamino-phenylcarbamoyl)-vinyl]-phenyl}-hydroxy-acetic acid methyl ester | 22.4 g, 60% | COC(C(O)C1=CC=C(C=C1)\C=C\C(NC1=C(C=CC=C1)NC(=O)OC(C)(C)C)=O)=O | C23H26N2O6
